US07125901B2
To a mixture of N-(4-{2-[4-(bromomethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide (100 mg), tetrahydrofuran (2 ml) and N,N-dimethylformamide (2 ml) was added sodium diformylimide (42 mg), and the mixture was stirred at ambient temperature for 1 hour. The reaction mixture was diluted with water (3 ml), and the precipitated solid was filtered and washed with water to give N-[4-(2-{4-[(diformylamino)methyl]phenyl}ethyl)-1,3-thiazol-2-yl]acetamide (80 mg).

reactant | N-(4-{2-[4-(bromomethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide | 100 mg | BrCC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C14H15BrN2OS
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | 3 ml | O | H2O
product | N-[4-(2-{4-[(diformylamino)methyl]phenyl}ethyl)-1,3-thiazol-2-yl]acetamide | 80 mg | C(=O)N(C=O)CC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C16H17N3O3S
